US09353104B2
Step F: 4-((3-ethyl-1-methyl-1H-pyrazol-5-yl)methylamino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one (7)
To a solution of 4-bromo-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one (70 mg, 0.19 mmol) in toluene (5 mL) under N2, ((3-ethyl-1-methyl-1H-pyrazol-5-yl)methanamine (32.2 mg, 0.23 mmol), Pd2(dba)3 (18 mg, 0.019 mmol), BINAP (35 mg, 0.06 mmol) and NaOtBu (27 mg, 0.285 mmol) were added. After the reaction mixture was stirred at 100° C. overnight, 15 mL water was added. The mixture was extracted with EtOAc (2×10 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by Prep-HPLC to give the title compound as oil. 1H NMR (400 MHz, CDCl3) δ 8.43 (s, 1H), 7.73 (d, 1H), 7.21 (d, 1H), 6.14 (s, 1H), 5.75 (s, 1H), 4.45-4.28 (m, 3H), 4.00 (d, 4H), 3.89 (s, 3H), 3.67 (s, 3H), 2.66 (d, 2H), 2.53 (s, 1H), 1.88 (s, 1H), 1.41 (s, 2H), 1.22 (t, 3H).

reactant | 4-bromo-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one | 0.19 mmol, 70 mg | BrC=1C(N(N=C(C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC)C)=O | C15H16BrN3O3
reactant | (3-ethyl-1-methyl-1H-pyrazol-5-yl)methanamine | 0.23 mmol, 32.2 mg | C(C)C1=NN(C(=C1)CN)C | C7H13N3
reactant | BINAP | 0.06 mmol, 35 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.285 mmol, 27 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.019 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 15 mL | O | H2O
product | 4-((3-ethyl-1-methyl-1H-pyrazol-5-yl)methylamino)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-2-methylpyridazin-3(2H)-one | C(C)C1=NN(C(=C1)CNC=1C(N(N=C(C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC)C)=O)C | C22H28N6O3
